US07429472B2
[2-(2-Hydroxy-ethoxy)-ethyl]-carbamic acid anthracen-9-ylmethyl ester.
To a stirring slurry of 9-anthracenemethanol (10 g, 48 mmol) and 4-nitrophenyl chloroformate (13.6 g, 67.5 mmol) in 200 ml CH2Cl2 was added triethylamine (6.7 ml, 0.19 mol). The resulting gold colored solution was allowed to stir 16 hrs at room temperature. At this point, 2-(2-aminoethoxy)ethanol (14.4 ml, 0.144 mol) was added and stirring continued for another 24 hours. The CH2Cl2 reaction mixture was then washed with a 2% sodium hydroxide (w/w) solution until no p-nitrophenol was observed in the organic layer. The dichloromethane was dried with sodium sulfate, filtered, and evaporated under reduced pressure.

reactant | 9-anthracenemethanol | 48 mmol, 10 g | C1=CC=CC2=CC3=CC=CC=C3C(=C12)CO | C15H12O
reactant | 4-nitrophenyl chloroformate | 67.5 mmol, 13.6 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | triethylamine | 0.19 mol, 6.7 ml | C(C)N(CC)CC | C6H15N
reactant | 2-(2-aminoethoxy)ethanol | 0.144 mol, 14.4 ml | NCCOCCO | C4H11NO2
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
catalyst | gold | [Au] | Au
product | [2-(2-Hydroxy-ethoxy)-ethyl]-carbamic acid anthracen-9-ylmethyl ester | C1=CC=CC2=CC3=CC=CC=C3C(=C12)COC(NCCOCCO)=O | C20H21NO4
